US05624935
2-Hydroxymethyl-1-methyl-1H-imidazo[4,5-b]pyridine
A procedure similar to that described in Preparation 15 was repeated, except that 45 g of 2-hydroxymethyl-1H-imidazo[4,5-b]pyridine, 13.17 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 20.7 ml of methyl iodide and 1.43 liter of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and methanol in ratios ranging from 1:0 to 1:1 by volume as the eluent, to give 3.24 g of the title compound, melting at 130°-132° C.

reactant | 2-hydroxymethyl-1H-imidazo[4,5-b]pyridine | 45 g | OCC=1NC=2C(=NC=CC2)N1 | C7H7N3O
reactant | sodium hydride | 13.17 g | [H-].[Na+]
reactant | methyl iodide | 20.7 ml | CI | CH3I
solvent | dimethylformamide | 1.43 liter | CN(C=O)C | C3H7NO
product | 2-Hydroxymethyl-1-methyl-1H-imidazo[4,5-b]pyridine | OCC=1N(C=2C(=NC=CC2)N1)C | C8H9N3O
